US08497368B2
(E)-3-(1-(1-(Quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethylideneamino)oxazolidin-2-one
The title compound was prepared in analogy to the synthesis of example 52 from 1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethanone and 3-aminooxazolidin-2-one. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.42 (s, 1H), 8.89 (m, 1H), 8.36 (d, 1H), 8.02 (m, 2H), 7.84 (m, 1H), 7.53 (m, 1H), 6.24 (s, 2H), 4.51 (t, 2H), 4.15 (t, 1H), 4.08 (t, 2H), 2.73 (s, 1H), 2.46 (s, 3H). LCMS (method B): [MH]+=389, tR=1.87 min.

reactant | 1-(1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethanone | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C(C)=O | C16H12N6O
reactant | 3-aminooxazolidin-2-one | NN1C(OCC1)=O | C3H6N2O2
product | (E)-3-(1-(1-(Quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)ethylideneamino)oxazolidin-2-one | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)\C(\C)=N\N2C(OCC2)=O | C19H16N8O2
